US09328111B2
Step 3: Methyl 7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate
A mixture of methyl 4-bromo-7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydro-acridine-1-carboxylate (4.0 g, 11 mmol), ethyl acetate (300 mL), Pd/C (5% Pd on carbon, 50% water, 4.0 g) was stirred at room temperature under an atmosphere of hydrogen for 6 hours. Methanol (100 mL) and Pd/C (5% Pd on carbon, 50% water, 8.0 g) was added to the mixture and stirred for another 1 hour. The mixture was filtered through celite and the filtrate was concentrated to give the desired product (3.3 g, crude) which was used to next step without further purification. 1H NMR (DMSO-d6) δ 11.70-11.72 (m, 1H), 7.60-7.63 (m, 2H), 7.13-7.14 (m, 1H), 3.79 (s, 3H), 2.76-2.77 (m, 2H), 2.23 (s, 2H), 1.55-1.57 (m, 2H), and 0.97 (s, 6H). MS (ESI) m/e [M+1]+286.

reactant | methyl 4-bromo-7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydro-acridine-1-carboxylate | 11 mmol, 4.0 g | BrC1=CC=C(C=2C(C=3CC(CCC3NC12)(C)C)=O)C(=O)OC | C17H18BrNO3
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 4.0 g | [Pd] | Pd
catalyst | Pd/C | 8.0 g | [Pd] | Pd
solvent | Methanol | 100 mL | CO | CH4O
product | Methyl 7,7-dimethyl-9-oxo-5,6,7,8,9,10-hexahydroacridine-1-carboxylate | 3.3 g | CC1(CCC=2NC=3C=CC=C(C3C(C2C1)=O)C(=O)OC)C | C17H19NO3
